US09326973B2
In a sealed tube, a mixture of (S)-tert-butyl 1-(2-(5-bromopyridin-2-yl)-2-oxoethylamino)-3-methyl-1-oxobutan-2-ylcarbamate (0.1 g) and ammonium acetate (0.186 g) in xylene was heated at 130° C. for 3 hrs. The reaction was diluted with EtOAc, washed with sat. NaHCO3, water and sat. NaCl, dried over anhydrous Na2SO4, filtered and concentrated to yield a yellow oil. The residue was purified by silica chromatography (0-100% EtOAc in hexane) to yield (S)-tert-butyl 1-(4-(5-bromopyridin-2-yl)-1H-imidazol-2-yl)-2-methylpropylcarbamate (0.06 g) as a pale yellow solid. LC/MS (Cond. N-1): [M+H]+ 395.17, RT=3.06 min.

reactant | (S)-tert-butyl 1-(2-(5-bromopyridin-2-yl)-2-oxoethylamino)-3-methyl-1-oxobutan-2-ylcarbamate | 0.1 g | BrC=1C=CC(=NC1)C(CNC([C@H](C(C)C)NC(OC(C)(C)C)=O)=O)=O | C17H24BrN3O4
reactant | ammonium acetate | 0.186 g | C(C)(=O)[O-].[NH4+]
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 1-(4-(5-bromopyridin-2-yl)-1H-imidazol-2-yl)-2-methylpropylcarbamate | 0.06 g | BrC=1C=CC(=NC1)C=1N=C(NC1)[C@H](C(C)C)NC(OC(C)(C)C)=O | C17H23BrN4O2
